US08871934B2
2-chloro-9-hydroxy-9-trifluoromethyl-9H-fluorene-4-carboxylic acid
To a mixture of 2-chloro-4-methyl-9-trifluoromethyl-9H-fluoren-9-ol (2.987 g), pyridine (6 ml) and water (24 ml) was added potassium permanganate (7.902 g) at 100° C., and the mixture was stirred for 2 hr. To this mixture were added further potassium permanganate (4.70 g) and pyridine (6 ml) and the mixture was stirred at 100° C. for 2 hr. Potassium permanganate (4.70 g) was further added and the mixture was stirred at 100° C. for 2 hr. This operation was repeated twice. The reaction mixture was cooled to room temperature, and the insoluble material was filtered off and washed with water (50 ml). The filtrate was adjusted to pH 1 with 6N hydrochloric acid, and extracted with ethyl acetate (200 ml). The organic layer was successively washed with water and saturated brine, dried over anhydrous sodium sulfate, and filtered. The filtrate was concentrated under reduced pressure and the obtained residue was treated with hexane/ethyl acetate mixed solution (hexane:ethyl acetate=9:1) (30 ml). This slurry was filtered, and the obtained solid was dried to give the title compound (2.509 g, 76%).

reactant | 2-chloro-4-methyl-9-trifluoromethyl-9H-fluoren-9-ol | 2.987 g | ClC1=CC=2C(C3=CC=CC=C3C2C(=C1)C)(O)C(F)(F)F | C15H10ClF3O
reactant | water | 24 ml | O | H2O
reactant | potassium permanganate | 7.902 g | [Mn](=O)(=O)(=O)[O-].[K+]
reactant | potassium permanganate | 4.70 g | [Mn](=O)(=O)(=O)[O-].[K+]
reactant | Potassium permanganate | 4.70 g | [Mn](=O)(=O)(=O)[O-].[K+]
solvent | pyridine | 6 ml | N1=CC=CC=C1 | C5H5N
solvent | pyridine | 6 ml | N1=CC=CC=C1 | C5H5N
product | 2-chloro-9-hydroxy-9-trifluoromethyl-9H-fluorene-4-carboxylic acid | 2.509 g, 76% | ClC1=CC=2C(C3=CC=CC=C3C2C(=C1)C(=O)O)(C(F)(F)F)O | C15H8ClF3O3
